US06780870B2
4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-amine
A solution of 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine (2 g, 5.258 mmol) in acetonitrile (30 ml) was treated with 0.880 ammonia (6 ml) dropwise. The resulting mixture was then stirred at 20 C. for 18 h. This gave the title compound as a colourless precipitate which was collected by filtration and dried (1.53 g)

reactant | 2-(methylsulfonyl)-4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidine | 5.258 mmol, 2 g | CS(=O)(=O)C1=NC(=CC(=N1)C1=CC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C13H11F3N2O4S2
reactant | ammonia | 6 ml | N | H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | 4-[4-(methylsulfonyl)phenyl]-6-(trifluoromethyl)pyrimidin-2-amine | CS(=O)(=O)C1=CC=C(C=C1)C1=NC(=NC(=C1)C(F)(F)F)N | C12H10F3N3O2S
